US07915300B2
4-propionylbenzoic acid (890 mg, 5 mmol), NaHCO3 (1.26 g, 15 mmol), and iodomethane (935 μL, 15 mmol) in DMF (10 mL) were stirred at RT overnight. The mixture was diluted with saturated aqueous NaCl (50 mL) and extracted with ether (3×50 mL). The organic phase was washed with water (50 mL), dried, and evaporated. Flash chromatography (90 g silica, 2/1 petroleum ether—EtOAc) gave white solids of 4-Propionyl-benzoic acid methyl ester (744 mg, 77%).

reactant | 4-propionylbenzoic acid | 5 mmol, 890 mg | C(CC)(=O)C1=CC=C(C(=O)O)C=C1 | C10H10O3
reactant | NaHCO3 | 15 mmol, 1.26 g | C(=O)(O)[O-].[Na+]
reactant | iodomethane | 15 mmol, 935 μL | IC | CH3I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | NaCl | 50 mL | [Na+].[Cl-]
product | 4-Propionyl-benzoic acid methyl ester | 744 mg, 77% | COC(C1=CC=C(C=C1)C(CC)=O)=O | C11H12O3
